US04199506
A mixture of 116 g (0.4468 mole) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate, 18 g (0.45 mole) of sodium hydroxide, 200 ml. of water, 400 ml. of tetrahydrofuran was stirred at room temperature for 16 hours and made acidic with 50 ml. of concentrated hydrochloric acid. The reaction mixture was extracted twice with 200 ml. of ether. The ether-tetrahydrofuran solution was dried (MgSO4) and concentrated under reduced pressure. The residual oil was treated with benzene and the benzene solution was concentrated under reduced pressure to remove the last trace of water. The residual solid was recrystallized from hexane-benzene to give 76 g (73.4%) of 2-chloro-4-trifluoromethyl-5-thiazolecarboxylic acid, m.p. 131°-131.5° C.

reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 0.4468 mole, 116 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
reactant | sodium hydroxide | 0.45 mole, 18 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-chloro-4-trifluoromethyl-5-thiazolecarboxylic acid | 76 g, 73.4% | ClC=1SC(=C(N1)C(F)(F)F)C(=O)O | C5HClF3NO2S
